// Generated for: spectre
// Generated on: Jul 14 19:48:56 2025
// Design library name: LEDRCell045
// Design cell name: testing
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/yongfu/research-freepdk-library/Cadence45/TECH/GPDK045/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: gsclib045u
// Cell name: OR2X1
// View name: schematic
subckt OR2X1 A B Y inh_VDD inh_VSS
    mn2 (Y n0 inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (n0 A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn1 (n0 B inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mp1 (n0 B n1 inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp2 (Y n0 inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp0 (n1 A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends OR2X1
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: NAND3X1
// View name: schematic
subckt NAND3X1 A B C Y inh_VDD inh_VSS
    mn1 (n0 B n1 inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn2 (Y C n0 inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (n1 A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mp0 (Y A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp1 (Y B inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp2 (Y C inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends NAND3X1
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: AND2X1
// View name: schematic
subckt AND2X1 A B Y inh_VDD inh_VSS
    mn2 (Y n0 inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (net127 B inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn1 (n0 A net127 inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mp1 (n0 B inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp0 (n0 A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp2 (Y n0 inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends AND2X1
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: NOR2X1
// View name: schematic
subckt gsclib045u_NOR2X1_schematic A B Y inh_VDD inh_VSS
    mn1 (Y B inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (Y A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mp1 (Y B net41 inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp0 (net41 A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends gsclib045u_NOR2X1_schematic
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: INVX1
// View name: schematic
subckt gsclib045u_INVX1_schematic A Y inh_VDD inh_VSS
    mp0 (Y A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mn0 (Y A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
ends gsclib045u_INVX1_schematic
// End of subcircuit definition.

// Library name: gsclib045u
// Cell name: NAND2X1
// View name: schematic
subckt NAND2X1 A B Y inh_VDD inh_VSS
    mn1 (Y B n0 inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mn0 (n0 A inh_VSS inh_VSS) g45n1svt w=(260n) l=45n nf=1 as=36.4f \
        ad=36.4f ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n \
        sd=160n sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
    mp1 (Y B inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
    mp0 (Y A inh_VDD inh_VDD) g45p1svt w=(390n) l=45n nf=1 as=54.6f \
        ad=54.6f ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n \
        sb=140n sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
ends NAND2X1
// End of subcircuit definition.

// Library name: LEDRCell045
// Cell name: STLATCHX1
// View name: schematic
subckt STLATCHX1 VDD VSS cs d0 d1 p q
    I53 (net025 y45 cs VDD VSS) OR2X1
    I51 (net039 c1 a2 VDD VSS) OR2X1
    I50 (y01 net034 net039 VDD VSS) OR2X1
    I49 (y23b net012 a1 VDD VSS) OR2X1
    I48 (y01 net028 c1 VDD VSS) OR2X1
    I44 (c1 y23b a2 net023 VDD VSS) NAND3X1
    I43 (a2 y23 net034 VDD VSS) AND2X1
    I42 (a1 a2 net012 VDD VSS) AND2X1
    I30 (Y tb t VDD VSS) gsclib045u_NOR2X1_schematic
    I31 (t net024 tb VDD VSS) gsclib045u_NOR2X1_schematic
    I29 (c p net024 VDD VSS) gsclib045u_NOR2X1_schematic
    I28 (pb c Y VDD VSS) gsclib045u_NOR2X1_schematic
    I46 (y23 y23b VDD VSS) gsclib045u_INVX1_schematic
    I45 (net023 net028 VDD VSS) gsclib045u_INVX1_schematic
    I38 (a1 c VDD VSS) gsclib045u_INVX1_schematic
    I52 (a1 y01 net025 VDD VSS) NAND2X1
    I41 (y4 y5 y45 VDD VSS) NAND2X1
    I40 (t p y4 VDD VSS) NAND2X1
    I20 (d1 c1 net010 VDD VSS) NAND2X1
    I19 (net010 qb q VDD VSS) NAND2X1
    I18 (q net011 qb VDD VSS) NAND2X1
    I17 (c1 d0 net011 VDD VSS) NAND2X1
    I32 (d1 qb y1 VDD VSS) NAND2X1
    I21 (c tb net027 VDD VSS) NAND2X1
    I39 (tb pb y5 VDD VSS) NAND2X1
    I23 (net026 pb p VDD VSS) NAND2X1
    I33 (d0 q y0 VDD VSS) NAND2X1
    I35 (d0 qb y3 VDD VSS) NAND2X1
    I37 (y2 y3 y23 VDD VSS) NAND2X1
    I22 (p net027 pb VDD VSS) NAND2X1
    I24 (t c net026 VDD VSS) NAND2X1
    I34 (y0 y1 y01 VDD VSS) NAND2X1
    I36 (d1 q y2 VDD VSS) NAND2X1
ends STLATCHX1
// End of subcircuit definition.

// Library name: LEDRCell045
// Cell name: testing
// View name: schematic
I3 (net1 net2 net3 net6 net7 net4 net5) STLATCHX1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 